US07144911B2
To a stirred suspension of (3-nitro-phenyl)-acetic acid (2 g) in CH2Cl2 (40 ml, with a catalytic amount of DMF) at 0° C. under N2 was added oxalyl chloride (1.1 ml) drop wise. The reaction mixture was stirred for 40 min morpholine (2.5 g) was added. After stirring for 20 min, the reaction mixture was filtered. The filtrate was concentrated in vacuo to yield 1-morpholin-4-yl-2-(3-nitro-pheny)-ethanone as a solid (2 g). A mixture of 1-morpholin-4-yl-2-(3-nitro-pheny)-ethanone (2 g) and 10% Pd on activated carbon (0.2 g) in ethanol (30 ml) was hydrogenated at 30 psi for 3 h and filtered over Celite. Removal of the volatiles in vacuo provided 2-(3-amino-phenyl)-1-morpholin-4-yl-ethanone (1.7 g). A solution of 2-(3-amino-phenyl)-1-morpholin-4-yl-ethanone (1.7 g, 7.7 mmol) was dissolved in 6 N HCl (15 ml), cooled to 0° C., and vigorously stirred. Sodium nitrite (0.54 g) in water (8 ml) was added. After 30 min, tin (II) chloride dihydrate (10 g) in 6 N HCl (30 ml) was added. The reaction mixture was stirred at 0° C. for 3 h. The pH was adjusted to pH 14 with solid potassium hydroxide and extracted with EtOAc. The combined organic extracts were concentrated in vacuo provided 2-(3-hydrazin-phenyl)-1-morpholin-4-yl-ethanone (1.5 g). 2-(3-Hydrazinophenyl)-1-morpholin-4-yl-ethanone (3 g) and 4,4-dimethyl-3-oxopentanenitrile (1.9 g, 15 mmol) in ethanol (60 ml) and 6 N HCl (1 ml) were refluxed for 1 h and cooled to RT. The reaction mixture was neutralized by adding solid sodium hydrogen carbonate. The slurry was filtered and removal of the volatiles in vacuo provided a residue that was extracted with ethyl acetate. The volatiles were removed in vacuo to provide 2-[3-(3-tert-butyl-5-amino-1H-pyrazol-1-yl)phenyl]-1-morpholinoethanone (4 g), which was used without further purification.

reactant | 2-(3-Hydrazinophenyl)-1-morpholin-4-yl-ethanone | 3 g | N(N)C=1C=C(C=CC1)CC(=O)N1CCOCC1 | C12H17N3O2
reactant | 4,4-dimethyl-3-oxopentanenitrile | 15 mmol, 1.9 g | CC(C(CC#N)=O)(C)C | C7H11NO
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | 60 ml | C(C)O | C2H6O
solvent | HCl | 6 N, 1 ml | Cl | ClH
product | 2-[3-(3-tert-butyl-5-amino-1H-pyrazol-1-yl)phenyl]-1-morpholinoethanone | 4 g | C(C)(C)(C)C1=NN(C(=C1)N)C=1C=C(C=CC1)CC(=O)N1CCOCC1 | C19H26N4O2
